US07858741B2
This preparation is similar to that reported by Krapcho et. al. for Cbz-Mop-OH. (Krapcho et. al. J. Med. Chem. 31:1148-1160 (1988)). To a solution of N-tert-Butoxycarbonyl-(2S,4R)-4-hydroxyproline (Boc-Hyp-OH, 2.00 g, 8.65 mmol) and CH3I (1.90 mL, 30.3 mmol) in acetone (50 mL) was added Ag2O (6.50 g, 28.1 mmol). The vessel was purged with Ar(g) and sealed with a septum, and the resulting suspension was stirred at room temperature for 24 h. The mixture was filtered and evaporated to a residue under reduced pressure. The residue was dried under high vacuum for 1 h, and then resubmitted to the reaction conditions a second time. After filtering and evaporating, the residue was dissolved in H2O (60 mL), a solution of NaOH (0.36 g, 9.08 mmol) in 1 mL H2O was added, and the solution was stirred at room temperature for 24 h (to hydrolyze any methyl ester that might have formed during alkylation). The aqueous mixture was acidified to pH 1 by the addition of 3 N HCl(aq) and extracted with CH2Cl2 (3×60 mL). The combined organic layers were dried over MgSO4(s) and evaporated under reduced pressure, and the product was then isolated by flash chromatography (100:0-95:5 CH2Cl2/MeOH) affording Boc-Mop-OH (0.97 g, 46%) as a tinted residue. 1H NMR (500 MHz, CDCl3, ˜3:2 ratio of 2 rotamers): δ 4.44 (t, J=7.5 Hz, 0.6 H), 4.34 (t, J=7.9 Hz, 0.4 H), 4.01-3.95 (m, 1 H), 3.70-3.65 (m, 0.4 H), 3.60-3.52 (m, 1 H), 3.49 (dd, J=11.7, 4.8 Hz, 0.6 H), 3.33 (overlapping s, 3 H), 2.46-2.36 (m, 1 H), 2.32-2.24 (m, 0.6 H), 2.17-2.07 (m, 0.4 H), 1.49 (s, 5.4 H), 1.43 (s, 3.6 H);

reactant | N-tert-Butoxycarbonyl-(2S,4R)-4-hydroxyproline | 8.65 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
reactant | CH3I | 30.3 mmol, 1.90 mL | CI | CH3I
reactant | NaOH | 9.08 mmol, 0.36 g | [OH-].[Na+]
reactant | HCl | 3 N | Cl | ClH
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | H2O | 1 mL | O | H2O
product | N-tert-Butoxycarbonyl-(2S,4R)-4-methoxyproline | 0.97 g, 46% | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)OC | C11H19NO5
